US04181806
Tetrahydro-N-methyl-N-(phosphonomethyl)-3-thiophenamine 1,1-dioxide
A mixture of N-methyltetrahydro-3-thiophenamine 1,1-dioxide hydrochloride (37.2 parts, 0.20 mole); 90 percent paraformaldehyde (6.8 parts, 0.22 mole); orthophosphorous acid (18.0 parts, 0.22 mole); and water (30 parts) was heated at its reflex temperature for 3 hours. After cooling, the solution was stirred into ethanol (150 ml.) and the sticky, white precipitate was triturated under more ethanol. After being dried in vacuo over P2O5 the product weighed 42.0 g. (86.3 percent yield). m.p. 222°-225° C.

reactant | N-methyltetrahydro-3-thiophenamine 1,1-dioxide hydrochloride | 0.20 mole | Cl.CNC1CS(CC1)(=O)=O
reactant | paraformaldehyde | 0.22 mole | C=O | CH2O
reactant | orthophosphorous acid | 0.22 mole | P(O)(O)O | H3O3P
reactant | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Tetrahydro-N-methyl-N-(phosphonomethyl)-3-thiophenamine 1,1-dioxide | 86.3 percent yield | CN(C1CS(CC1)(=O)=O)CP(=O)(O)O | C6H14NO5PS
